US08252810B2
(1) N-(2,2,2-Trifluoro-ethyl)acetamidine hydrochloride
A mixture of 2,2,2-trifluoroethylamine (3 ml), ethyl acetimidate hydrochloride (4.8 g) and ethanol (12 ml) was stirred at room temperature for 90 minutes, and then stirred overnight at 80° C. The reaction mixture was concentrated under reduced pressure to obtain the title compound (6.66 g).

reactant | 2,2,2-trifluoroethylamine | 3 ml | FC(CN)(F)F | C2H4F3N
reactant | ethyl acetimidate hydrochloride | 4.8 g | Cl.C(C)(OCC)=N
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N-(2,2,2-Trifluoro-ethyl)acetamidine hydrochloride | 6.66 g | Cl.FC(CNC(C)=N)(F)F | InChI=1S/C4H7F3N2.ClH/c1-3(8)9-2-4(5,6)7;/h2H2,1H3,(H2,8,9);1H
